US08455477B2
4-(benzyloxy)-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine (185 mg, 0.608 mmol) and palladium hydroxide on carbon (85 mg, 0.122 mmol, 20 wt %) were suspended in EtOH (10 ml) and placed under an atmosphere of hydrogen (balloon). After 2 h, additional palladium hydroxide on carbon (85 mg, 0.122 mmol, 20 wt %) was added and the mixture was allowed to stir overnight. The reaction mixture was filtered through a 45 μm syringe filter and the filtrate was concentrated. The residue was purified by column chromatography on silica gel (methanol/ethyl acetate gradient) to afford 6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridin-4-ol.

reactant | 4-(benzyloxy)-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine | 0.608 mmol, 185 mg | C(C1=CC=CC=C1)OC=1C=2N(C=C(C1)C=1C=NN(C1)C)N=CC2 | C18H16N4O
solvent | EtOH | 10 ml | CCO | C2H6O
catalyst | palladium hydroxide on carbon | 0.122 mmol, 85 mg | [OH-].[OH-].[Pd+2]
catalyst | palladium hydroxide on carbon | 0.122 mmol, 85 mg | [OH-].[OH-].[Pd+2]
product | 6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridin-4-ol | CN1N=CC(=C1)C=1C=C(C=2N(C1)N=CC2)O | C11H10N4O
